US05728650
B. Preparation of tetraethyl N-benzyl-5-aminopentane-1,1-bisphosphonate
A solution of tetraethyl N-benzoyl-5-aminopentane-1,1-bisphosphonate (0.63 g, 1.36 mmol) in THF (3.4 mL) was cooled to 0° C., and borane methylsulfide (0.34 ml, 3.4 mmol) was added via syringe. The reaction was stirred at 0° C. for 20 minutes, then warmed to 65° C. for 2.5 hours. The reaction mixture was cooled to 0° C. and 6N HCl (4.0 ml) was added carefully. The solvent was removed in vacuo, and the residue was concentrated repeatedly from methanol (2×5 mL). The residue was dissolved in water (10 ml) and extracted with diethyl ether (3×5 ml). The aqueous layer was made basic to phenolphthalein with solid KOH and saturated with NaCl. The product was extracted into dichloromethane (5×20 ml), dried (Na2SO4) and concentrated to give the title compound (0.28 g).

reactant | tetraethyl N-benzoyl-5-aminopentane-1,1-bisphosphonate | 1.36 mmol, 0.63 g | C(C1=CC=CC=C1)(=O)NCCCCC(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C20H35NO7P2
reactant | borane methylsulfide | 3.4 mmol, 0.34 ml | CSC.B
reactant | HCl | 6N, 4.0 ml | Cl | ClH
solvent | THF | 3.4 mL | C1CCOC1 | C4H8O
product | tetraethyl N-benzyl-5-aminopentane-1,1-bisphosphonate | 0.28 g | C(C1=CC=CC=C1)NCCCCC(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C20H37NO6P2
